US08242175B2
A mixture of 2-chloro-5-fluoro-benzonitrile (1 g, 6.43 mmol), K2CO3 (2.66 g, 19.3 mmol) and 1-methyl-piperazine (1.02 g, 10.26 mmol) in DMSO (14 ml) was stirred at 100° C. overnight and then further 1-methyl-piperazine (1.02 g, 10.26 mmol) was added. The mixture was stirred at 100° C. overnight and then partitioned between water and Et2O. The organic phase was extracted with 1 M HCl and the aqueous layer was brought to basic conditions with NH4OH and extracted with DCM. The organic phase was dried over Na2SO4 and evaporated in vacuo to give 1 g of 2-chloro-5-(4-methyl-piperazin-1-yl)-benzonitrile.

reactant | 2-chloro-5-fluoro-benzonitrile | 6.43 mmol, 1 g | ClC1=C(C#N)C=C(C=C1)F | C7H3ClFN
reactant | K2CO3 | 19.3 mmol, 2.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-piperazine | 10.26 mmol, 1.02 g | CN1CCNCC1 | C5H12N2
reactant | 1-methyl-piperazine | 10.26 mmol, 1.02 g | CN1CCNCC1 | C5H12N2
solvent | DMSO | 14 ml | CS(=O)C | C2H6OS
product | 2-chloro-5-(4-methyl-piperazin-1-yl)-benzonitrile | 1 g | ClC1=C(C#N)C=C(C=C1)N1CCN(CC1)C | C12H14ClN3
